US05618941
Diethyl 5-(4-fluorobenzoyl)-1,3-benzenedipropanoate
Dimethylsulphoxide (16.2 ml) was added dropwise to a stirred solution of oxalyl chloride (11.55 g) in dry dichloromethane (500 ml) at -78° C. under an atmosphere of dry nitrogen. The mixture was stirred for 10 minutes and then a solution of diethyl 5-[(4-fluorophenyl)hydroxymethyl]-1,3-benzenedipropanoate (30.65 g) in dry dichloromethane (150 ml) was added dropwise. The mixture was stirred at -78° C. for 30 minutes, triethylamine (23.03 g) was added, and stirring was continued for a further 10 minutes. The temperature was allowed to rise to room temperature, and the mixture was washed with water. The organic layer was separated, dried (MgSO4) and evaporated. The residue was chromatographed on silica gel. Elution with dichloromethane followed by dichloromethane/methanol (50:1) gave the title compound as an oil (28.92 g), Rf 0.75 (SS 4). Found: C,69.08; H,6.46. C23H25FO5 requires: C,68.98; H,6.29%.

reactant | Dimethylsulphoxide | 16.2 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 11.55 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethyl 5-[(4-fluorophenyl)hydroxymethyl]-1,3-benzenedipropanoate | 30.65 g | FC1=CC=C(C=C1)C(C=1C=C(C=C(C1)CCC(=O)OCC)CCC(=O)OCC)O | C23H27FO5
reactant | triethylamine | 23.03 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | Diethyl 5-(4-fluorobenzoyl)-1,3-benzenedipropanoate | 28.92 g | FC1=CC=C(C(=O)C=2C=C(C=C(C2)CCC(=O)OCC)CCC(=O)OCC)C=C1 | C23H25FO5
